US07759362B2
The preparation comprises dissolving cis-8-benzyl-2,8-diazabicyclo[4,3,0]nonane (5.0 g, 23.1 mmol) in dichloromethane (50 mL) and triethylamine (5 mL) under stirring in ice bath, dropwise adding a solution of acetyl chloride (1.8 g, 23.1 mmol) in chloroform (10 mL), continuing with the stirring until the reaction finishes, distilling off the solvent, and chromatographing on silica gel with petroleum ether and ethyl acetate to give cis-8-benzyl-2-acetyl-2,8-diazabicyclo[4,3,0]nonane (5.1 g, 85.5%).

reactant | cis-8-benzyl-2,8-diazabicyclo[4,3,0]nonane | 23.1 mmol, 5.0 g | C(C1=CC=CC=C1)N1C[C@@H]2CCCN[C@@H]2C1 | C14H20N2
reactant | acetyl chloride | 23.1 mmol, 1.8 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | cis-8-benzyl-2-acetyl-2,8-diazabicyclo[4,3,0]nonane | 5.1 g, 85.5% | C(C1=CC=CC=C1)N1C[C@@H]2CCCN([C@@H]2C1)C(C)=O | C16H22N2O
